2131-07-10 06:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2131-7-9**] 06:38 PM
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Albuterol 0.083% Neb Soln
   Chlorhexidine Gluconate 0.12% Oral Diazepam
   Famotidine
   FoLIC Acid
   Furosemide
   Heparin
   Insulin
   LeVETiracetam
   Miconazole Powder 2%
   Multivitamins
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-7-10**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.9
C (98.5
   HR: 115 (112 - 120) bpm
   BP: 117/72(82) {83/49(59) - 126/79(90)} mmHg
   RR: 28 (19 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
             Total In:
                                                                    640 mL
                                                                  1,064 mL
   PO:
             TF:
   IVF:
                                                                    550 mL
                                                                    564 mL
   Blood products:
   Total out:
                                                                    187 mL
                                                                    290 mL
   Urine:
                                                                    187 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    453 mL
                                                                    774 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   General: Alert, non-verbal, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Rhonchi but clears after cough.
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   .
   Labs / Radiology
   559 K/uL
   9.2 g/dL
   128 mg/dL
   1.0 mg/dL
   21 mEq/L
   4.8 mEq/L
   31 mg/dL
   118 mEq/L
   146 mEq/L
   29.3 %
   13.8 K/uL
        [image002.jpg]
                             [**2131-7-9**]  09:43 PM
   WBC
   13.8
   Hct
   29.3
   Plt
   559
   Cr
   1.0
   Glucose
   128
   Other labs: PT / PTT / INR:13.9/27.9/1.2, Ca++:10.2 mg/dL, Mg++:1.9
   mg/dL, PO4:5.9 mg/dL
   Assessment and Plan
 Seizure
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 IMPAIRED SKIN INTEGRITY
   This is a 28y/o Male with an anoxic brain injury s/p cardiac arrest in
   the setting of necrotizing pancreatitis [**2-5**] EtOH who was recently d/c'd
   from [**Hospital1 5**] to rehab/LTC.  Pt reportedly had two sz's yesterday and
   another this AM.  Was seen by a neurologist at rehab who in
   consultation with Epileptology at [**Hospital1 5**] decided patient to be
   transfered back to [**Hospital1 5**] for further evaluation to include neurology
   consult and 24hr EEG.
   #Seizure: Mr. [**Known lastname 6420**] has an anoxic brain injury and has had seizures
   treated with keppra.  MRI and EEG results as above.  Transfered to
   [**Hospital1 5**] for neurology eval and presumptive 24hr EEG.  It is possible that
   these seizures are from benzo withdrawal after the decrease in dose of
   the valium is possible but not probable and more likely a result of his
   anoxic brain injury.
   -Neurology c/s in AM w/ likely 24hr EEG
   -Cont. Keppra
   #Fevers/Tachypnea/Tachycardia:  Pt has had persistent
   fevers/tachypnea/tachycardia which were evaluated during the prior
   hospitalization.  Multiple blood/urine Cx were negative and the sputum
   Cx were thought to be colonization.  The fevers/tachypnea/tachycardia
   were felt to be either central in origin or potentially from necrotic
   pancreatic tissue.  Currently we are willing to tolerate this
   persistent state.  If pt spikes high fever will investigate as
   appropriate.  Rehab started Pt on Metoprolol for rate control.
   Questionable as to benefit and whether or not there is a risk of a rate
   related cardiomyopathy, however it is not an unreasonable action and we
   will continue this course.
   -restart Metoprolol 25mg PO/NG TID
   #Volume Overload:  Pt was volume up during prior hospitalization and
   was on dialysis [**2-5**] renal failure.  He has had return of renal function
   and now is being diuresed with lasix 40mg PO daily.
   -Continue lasix 40mg PO/NG daily
   #EtOH/Benzo withdrawal: Continue to taper of valium.  Currently at 5mg
   PO qhs.  Also has been getting folic acid/MVI/Thiamine which we will
   continue.
   #Wound care: Mr. [**Known lastname 6420**] has developed some skin breakdown on left lateral
   thigh since discharge.  Unclear etiology but a wound care c/s would be
   beneficial during this hospitalization.
   -c/s wound care.
   #Hemoptysis: Pt has had bloody secretions/hemoptysis since tracheostomy
   at which time he had significant hemorrhage.  Total volume has
   decreased and Pt has had bronchs which were unrevealing.  Noted Pts
   Mother
s concern but feel as though there is nothing to add nor any
   intervention to offer at this time.
   #DM: continue lantus with SSI
   .
   # FEN: Nutrition consult pending for tube feeds replete electrolyte
   .
   ICU Care
   Nutrition: Tube feeds pending nutrition consult
   Glycemic Control:  [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **] / SSI
   Lines:
   PICC Line - [**2131-7-9**] 06:38 PM
   Prophylaxis:
   DVT: SC Heparin, SCD
   Stress ulcer: Famotidine
   VAP:  HOB>30, Oral Care
   Comments:
   Communication: With Pts Mother/Father/Brother Comments:
   [**Name2 (NI) 156**] status: Full code
   Disposition: MICU

2131-07-11 08:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -K improved with Kayexalate (given Kayexalate 30 and 10 u insulin in
   [**1-5**] amp D5W) - flexiseal in place
   -pt did not get tube feeds for most of [**7-10**], so insulin halved
   -24 hr EEG with video monitoring to start in AM
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2131-7-10**] 06:02 PM
   Famotidine (Pepcid) - [**2131-7-10**] 08:23 PM
   Heparin Sodium (Prophylaxis) - [**2131-7-11**] 05:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-7-11**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.4
C (99.4
   HR: 104 (104 - 126) bpm
   BP: 120/75(85) {110/48(68) - 128/75(86)} mmHg
   RR: 32 (21 - 36) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
             Total In:
                                                                  1,723 mL
                                                                    430 mL
   PO:
             TF:
                                                                    128 mL
                                                                    120 mL
   IVF:
                                                                    740 mL
                                                                     60 mL
   Blood products:
   Total out:
                                                                  1,444 mL
                                                                    272 mL
   Urine:
                                                                  1,444 mL
                                                                    272 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    279 mL
                                                                    158 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///18/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   510 K/uL
   8.9 g/dL
   112 mg/dL
   0.9 mg/dL
   18 mEq/L
   4.6 mEq/L
   25 mg/dL
   117 mEq/L
   144 mEq/L
   27.8 %
   11.5 K/uL
        [image002.jpg]
                             [**2131-7-9**]  09:43 PM
                             [**2131-7-10**]  05:57 AM
                             [**2131-7-11**]  02:57 AM
   WBC
   13.8
   12.8
   11.5
   Hct
   29.3
   27.2
   27.8
   Plt
   [**Telephone/Fax (3) 7575**]
   Cr
   1.0
   1.0
   0.9
   Glucose
   128
   115
   112
   Other labs: PT / PTT / INR:13.9/27.9/1.2, Ca++:10.5 mg/dL, Mg++:1.6
   mg/dL, PO4:5.9 mg/dL
   Assessment and Plan
   28y/o Male with an anoxic brain injury s/p cardiac arrest in the
   setting of necrotizing pancreatitis [**2-5**] EtOH who was recently d/c'd
   from [**Hospital1 5**] to rehab/LTC.  Pt reportedly had two sz's yesterday and
   another this AM.  Was seen by a neurologist at rehab who in
   consultation with Epileptology at [**Hospital1 5**] decided patient to be
   transfered back to [**Hospital1 5**] for further evaluation to include neurology
   consult and 24hr EEG.
   #Seizure: Mr. [**Known lastname 6420**] has an anoxic brain injury and has had seizures
   treated with keppra.  MRI and EEG results as above.  Transfered to
   [**Hospital1 5**] for neurology eval and presumptive 24hr EEG.  It is possible that
   these seizures are from benzo withdrawal after the decrease in dose of
   the valium is possible but not probable and more likely a result of his
   anoxic brain injury.
   -Neurology c/s in AM w/ likely 24hr EEG
   -Cont. Keppra
   #Fevers/Tachypnea/Tachycardia:  Pt has had persistent
   fevers/tachypnea/tachycardia which were evaluated during the prior
   hospitalization.  Multiple blood/urine Cx were negative and the sputum
   Cx were thought to be colonization.  The fevers/tachypnea/tachycardia
   were felt to be either central in origin or potentially from necrotic
   pancreatic tissue.  Currently we are willing to tolerate this
   persistent state.  If pt spikes high fever will investigate as
   appropriate.  Rehab started Pt on Metoprolol for rate control.
   Questionable as to benefit and whether or not there is a risk of a rate
   related cardiomyopathy, however it is not an unreasonable action and we
   will continue this course.
   -restart Metoprolol 25mg PO/NG TID
   #Volume Overload:  Pt was volume up during prior hospitalization and
   was on dialysis [**2-5**] renal failure.  He has had return of renal function
   and now is being diuresed with lasix 40mg PO daily.
   -Continue lasix 40mg PO/NG daily
   #EtOH/Benzo withdrawal: Continue to taper of valium.  Currently at 5mg
   PO qhs.  Also has been getting folic acid/MVI/Thiamine which we will
   continue.
   #Wound care: Mr. [**Known lastname 6420**] has developed some skin breakdown on left lateral
   thigh since discharge.  Unclear etiology but a wound care c/s would be
   beneficial during this hospitalization.
   -c/s wound care.
   #Hemoptysis: Pt has had bloody secretions/hemoptysis since tracheostomy
   at which time he had significant hemorrhage.  Total volume has
   decreased and Pt has had bronchs which were unrevealing.  Noted Pts
   Mother
s concern but feel as though there is nothing to add nor any
   intervention to offer at this time.
   #DM: continue lantus with SSI
   .
   # FEN: Nutrition consult pending for tube feeds replete electrolyte
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2131-7-10**] 12:00 PM 15 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2131-7-9**] 06:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-07-12 06:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -had EEG done
   -called out to neuro floor
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2131-7-11**] 08:30 PM
   Morphine Sulfate - [**2131-7-11**] 09:00 PM
   Heparin Sodium (Prophylaxis) - [**2131-7-11**] 09:38 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-7-12**] 06:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.2
C (99
   HR: 106 (104 - 125) bpm
   BP: 120/66(79) {96/39(58) - 132/76(88)} mmHg
   RR: 22 (22 - 36) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
             Total In:
                                                                  1,541 mL
                                                                    687 mL
   PO:
             TF:
                                                                    721 mL
                                                                    287 mL
   IVF:
                                                                    220 mL
                                                                     60 mL
   Blood products:
   Total out:
                                                                  1,270 mL
                                                                    205 mL
   Urine:
                                                                  1,270 mL
                                                                    205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    271 mL
                                                                    482 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///19/
   Physical Examination
   Labs / Radiology
   510 K/uL
   8.9 g/dL
   154 mg/dL
   1.2 mg/dL
   19 mEq/L
   5.2 mEq/L
   29 mg/dL
   115 mEq/L
   144 mEq/L
   27.8 %
   11.5 K/uL
        [image002.jpg]
                             [**2131-7-9**]  09:43 PM
                             [**2131-7-10**]  05:57 AM
                             [**2131-7-11**]  02:57 AM
                             [**2131-7-12**]  03:30 AM
   WBC
   13.8
   12.8
   11.5
   Hct
   29.3
   27.2
   27.8
   Plt
   [**Telephone/Fax (3) 7575**]
   Cr
   1.0
   1.0
   0.9
   1.2
   Glucose
   128
   115
   112
   154
   Other labs: PT / PTT / INR:13.9/27.9/1.2, Ca++:10.5 mg/dL, Mg++:1.6
   mg/dL, PO4:5.9 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 IMPAIRED SKIN INTEGRITY
   28y/o male with an anoxic brain injury s/p cardiac arrest in the
   setting of necrotizing pancreatitis [**2-5**] EtOH who was recently d/c'd
   from [**Hospital1 5**] to rehab/LTC.  Pt reportedly had two sz's yesterday and
   another this AM.  Was seen by a neurologist at rehab who in
   consultation with Epileptology at [**Hospital1 5**] decided patient to be
   transfered back to [**Hospital1 5**] for further evaluation to include neurology
   consult and 24hr EEG.
   #Seizure: Mr. [**Known lastname 6420**] has an anoxic brain injury and has had seizures
   treated with keppra.  MRI and EEG results as above.  Transfered to
   [**Hospital1 5**] for neurology eval and presumptive 24hr EEG.  It is possible that
   these seizures are from benzo withdrawal after the decrease in dose of
   the valium is possible but not probable and more likely a result of his
   anoxic brain injury. He has had no clear sz activity during this
   admission.
   -Neurology c/s w/ likely 24hr EEG
   -Cont. Keppra
   #Fevers/Tachypnea/Tachycardia:  Pt has had persistent
   fevers/tachypnea/tachycardia which were evaluated during the prior
   hospitalization.  Multiple blood/urine Cx were negative and the sputum
   Cx were thought to be colonization.  The fevers/tachypnea/tachycardia
   were felt to be either central in origin or potentially from necrotic
   pancreatic tissue.  Currently we are willing to tolerate this
   persistent state.  If pt spikes high fever will investigate as
   appropriate.  Rehab started Pt on Metoprolol for rate control.
   Questionable as to benefit and whether or not there is a risk of a rate
   related cardiomyopathy, however it is not an unreasonable action and we
   will continue this course.
   -restart Metoprolol 25mg PO/NG TID
   #Volume Overload:  Pt was volume up during prior hospitalization and
   was on dialysis [**2-5**] renal failure.  He has had return of renal function
   and now is being diuresed with lasix 40mg PO daily.
   -Continue lasix 40mg PO/NG daily
   #EtOH/Benzo withdrawal: Continue to taper of valium.  Currently at 5mg
   PO qhs.  Also has been getting folic acid/MVI/Thiamine which we will
   continue.
   #Wound care: Mr. [**Known lastname 6420**] has developed some skin breakdown on left lateral
   thigh since discharge.  Unclear etiology but a wound care c/s would be
   beneficial during this hospitalization.
   -c/s wound care.
   #Hemoptysis: Pt has had bloody secretions/hemoptysis since tracheostomy
   at which time he had significant hemorrhage.  Total volume has
   decreased and Pt has had bronchs which were unrevealing.  Noted Pts
   Mother
s concern but feel as though there is nothing to add nor any
   intervention to offer at this time.
   #DM: continue lantus with SSI
   .
   # FEN: Nutrition consult pending for tube feeds replete electrolyte
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2131-7-12**] 03:22 AM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2131-7-9**] 06:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: